US07405299B2
Preparation of 6-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoxaline
Add THF (2.2 mL) to 6-bromo-quinoxaline (Yamamoto, T. et al., J. Am. Chem. Soc. 1996, 118, 3930-3936; 219 mg, 1.05 mmol) and purge the solution with nitrogen for 10 min. Add tris(dibenzylideneacetone)dipalladium(0) (80 mg, 0.087 mmol) and bis(1,2-bis(diphenylphosphino)ethane)palladium(0) (78 mg, 0.087 mmol), purge the reaction with nitrogen for 2 min, and stir the reaction at room temperature for 20 min. Add (2-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid (Preparation 5; 200 mg, 0.87 mmol) in 1:1 DMF/THF (2 mL each) and stir for 10 min. Add 2.0M aqueous potassium carbonate (1.04 mL, 2.1 mmol) and heat the reaction to 65° C. Add additional tris(dibenzylideneacetone)dipalladium(0) (80 mg, 0.087 mmol) after 1 h and 3 h. Stir the reaction at 65° C. for 18 h, filter through Celite® with methanol/chloroform, and concentrate in vacuo. Purify by flash column chromatography followed by reverse-phase preparative HPLC. Concentrate the pure fractions from the preparative HPLC in vacuo, take up in methanol, treat with MP-carbonate beads, filter, and concentrate in vacuo to provide the title compound (82 mg, 30%) as a clear, colorless oil. MS ESI+ m/e 314 (M+1). 1H NMR (CDCl3) δ 8.86 (m, 3H), 8.11 (m, 1H), 8.05 (m, 2H), 7.79 (m, 2H), 7.47 (m, 1H), 4.33 (m, 2H), 3.11 (m, 2H), 2.72 (m, 2H). HPLC: 98.5%, Rt=13.61 min. TLC (SiO2): Rf0.3 (1:3 [80:18:2 chloroform/methanol/concentrated aqueous ammonium hydroxide]/dichloromethane).

reactant | THF | 2.2 mL | C1CCOC1 | C4H8O
reactant | 6-bromo-quinoxaline | 1.05 mmol, 219 mg | BrC=1C=C2N=CC=NC2=CC1 | C8H5BrN2
reactant | (2-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid | 0.87 mmol, 200 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)B(O)O | C11H12BN3O2
reactant | potassium carbonate | 2.1 mmol, 2.0M, 1.04 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.087 mmol, 80 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.087 mmol, 80 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF THF | 2 mL | CN(C)C=O.C1CCOC1
product | 6-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoxaline | 82 mg, 30% | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C=2C=C1N=CC=NC1=CC2 | C19H15N5
